US04886803
1-(N,N-Dimethylsulfamoyl)-5,6-dimethoxybenzimidazole
A suspension of 5,6-dimethoxybenzimidazole (6.2 g) in dichloroethane (100 ml) was added to N,N-dimethylsulfamoyl chloride (5.3 g) and triethylamine (6 g) was added dropwise while stirring. After the mixture was reacted at room temperature for 24 hours, the reaction solution was washed with an aqueous sodium hydrogen carbonate solution and then with a saturated saline solution and dried over anhydrous Na2SO4. The solvent was distilled off, precipitated crystals were filtered, washed with n-hexane and dried to give the title compound (8.57 g).

reactant | 5,6-dimethoxybenzimidazole | 6.2 g | COC1=CC2=C(N=CN2)C=C1OC | C9H10N2O2
reactant | N,N-dimethylsulfamoyl chloride | 5.3 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | triethylamine | 6 g | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 1-(N,N-Dimethylsulfamoyl)-5,6-dimethoxybenzimidazole | 8.57 g | CN(S(=O)(=O)N1C=NC2=C1C=C(C(=C2)OC)OC)C | C11H15N3O4S
